US08076486B2
3-(2-Fluoro-phenyl)-5-(2-fluoro-phenylamino)-isonicotinic acid methyl ester
3-Bromo-5-(2-fluoro-phenylamino)-isonicotinic acid methyl ester (1.25 g, 3.84 mmol), 2-fluorophenylboronic acid (0.81 g, 5.77 mmol), Pd(OAc)2 (30 mg, 0.12 mmol), S-Phos (90 mg, 0.24 mmol), and K2CO3 (1.6 g, 11.5 mmol) were suspended in dioxane/H2O (9 mL, 9/1, v/v) and stirred overnight at 100° C. The reaction solution was diluted with EtOAc, and filtered through an Extrelut column. The column was washed with EtOAc, and the filtrate was concentrated. The crude product was purified via Biotage eluting with a gradient of 0 to 50% EtOAc in hexanes to afford the desired product (680 mg, 52%) as a yellow solid. LC-MS (M+H=341, obsd.=341).

reactant | 3-Bromo-5-(2-fluoro-phenylamino)-isonicotinic acid methyl ester | 3.84 mmol, 1.25 g | COC(C1=C(C=NC=C1NC1=C(C=CC=C1)F)Br)=O | C13H10BrFN2O2
reactant | 2-fluorophenylboronic acid | 5.77 mmol, 0.81 g | FC1=C(C=CC=C1)B(O)O | C6H6BFO2
reactant | S-Phos | 0.24 mmol, 90 mg | COC=1C=CC=C(C1C=2C=CC=CC2P(C3CCCCC3)C4CCCCC4)OC | C26H35O2P
reactant | K2CO3 | 11.5 mmol, 1.6 g | C(=O)([O-])[O-].[K+].[K+]
solvent | dioxane H2O | O1CCOCC1.O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd(OAc)2 | 0.12 mmol, 30 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 3-(2-Fluoro-phenyl)-5-(2-fluoro-phenylamino)-isonicotinic acid methyl ester | 680 mg, 52% | COC(C1=C(C=NC=C1NC1=C(C=CC=C1)F)C1=C(C=CC=C1)F)=O | C19H14F2N2O2
